US07994333B2
3-(5-Chlorobenzo[b]thiophen-3-yl)-2-oxopropyl acetate
The procedure described above for the synthesis of 3-(3,4-dichlorophenyl)-2-oxopropyl acetate was followed, reacting 1-chloro-3-(5-chlorobenzo[b]thiophen-3-yl)-propan-2-one (4.43 g, 17.1 mmol) with acetic acid (2.0 mL, 2.1 g, 35 mmol) and triethylamine (4.9 mL, 3.6 g, 35 mmol). Flash chromatography over silica gel (20% ethyl acetate in hexanes) gave pure product, a pale yellow solid (2.76 g, 57% yield): 1H NMR (400 MHz, CDCl3) δ2.16 (s, 3H) 3.94 (d, J=1.0 Hz, 2H) 4.73 (s, 2H) 7.34 (ddd, J=8.6, 2.0, 0.5 Hz, 1H) 7.39-7.42 (m, 1H) 7.65 (d, J=2.0 Hz, 1H) 7.78 (dd, J=8.6, 0.5 Hz, 1H).

reactant | 3-(3,4-dichlorophenyl)-2-oxopropyl acetate | C(C)(=O)OCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O3
reactant | 1-chloro-3-(5-chlorobenzo[b]thiophen-3-yl)-propan-2-one | 17.1 mmol, 4.43 g | ClCC(CC=1C2=C(SC1)C=CC(=C2)Cl)=O | C11H8Cl2OS
reactant | acetic acid | 35 mmol, 2.0 mL, 2.1 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 35 mmol, 4.9 mL, 3.6 g | C(C)N(CC)CC | C6H15N
product | 3-(5-Chlorobenzo[b]thiophen-3-yl)-2-oxopropyl acetate | 2.76 g, 57% yield | C(C)(=O)OCC(CC=1C2=C(SC1)C=CC(=C2)Cl)=O | C13H11ClO3S
